US09238640B2
To a solution of ethyl 4-(4-hydroxypiperidin-1-yl)benzoate (8.0 g, 32.1 mmol) in CH2Cl2 (200 mL) was added Et3N (23 mL, 165 mmol) under nitrogen, followed by MsCl (5.6 g, 48.9 mmol). The mixture was stirred for 5 minutes, washed with water (300 mL), dried over anhydrous MgSO4, filtered, and concentrated to afford ethyl 4-(4-(methylsulfonyloxy)piperidin-1-yl)benzoate as a tan solid (10.5 g, 100%).

reactant | ethyl 4-(4-hydroxypiperidin-1-yl)benzoate | 32.1 mmol, 8.0 g | OC1CCN(CC1)C1=CC=C(C(=O)OCC)C=C1 | C14H19NO3
reactant | Et3N | 165 mmol, 23 mL | CCN(CC)CC | C6H15N
reactant | MsCl | 48.9 mmol, 5.6 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | ethyl 4-(4-(methylsulfonyloxy)piperidin-1-yl)benzoate | 10.5 g, 100% | CS(=O)(=O)OC1CCN(CC1)C1=CC=C(C(=O)OCC)C=C1 | C15H21NO5S
